*
* NGSPICE simulation script
* BJT amp with feedback
*

*Values:  R1 = 1.00455407009 
*R2 = 2.04596274404 
*R3 = 3.09144622662 
*R4 = 4.11831176554 
*R5 = 3.01223930062 
*R6 = 2.09613044241 
*R7 = 1.04911840913 
*Vs = 5.24627171439 
*C = 1.01890083211 
*Kb = 7.12576427883 
*Kc = 8.23427638445 

* forces current values to be saved
.options savecurrents



Vs n1 0 0.0 ac 1.0 sin(0 1 1k)

R1 n1 n2 1.00455407009e3

R2 n2 n3 2.04596274404e3

R3 n2 n5 3.09144622662e3

Gb n6 n3 n2 n5 7.12576427883e-3

R4 0 n5 4.11831176554e3

R5 n5 n6 3.01223930062e3

R6 0 n7 2.09613044241e3

VHd n7 nex 0 

Hd n5 n8 VHd 8.23427638445e3

C n6 n8 1.01890083211e-6

R7 nex n8 1.04911840913e3

.INCLUDE ./voltages68_3.txt


.control

set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

set numdgt = 16;

echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 20e-3

hardcopy trans4.ps v(n6) v(n1)
echo trans4_FIG

echo "********************************************"
echo  "Frequency analysis"
echo "********************************************"

ac dec 10 0.1 1MEG

hardcopy ac5.ps db(v(n1)) db(v(n6))
echo ac5_FIG



quit

.endc


.end
